US07276516B2
3-Piperidin-1-yl-1-triisopropylsilanyl-1H-indole
Following a method similar to 3-morpholin-4-yl-1-triisopropylsilanyl-1H-indole using 3-bromo-1-triisopropylsilanyl-1H-indole (0.70 g, 1.99 mmol), piperidine (0.26 g, 3.04 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.02 g, 0.05 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.05 g, 0.05 mmol) and 1N solution of lithium bis(trimethylsilyl)amide in THF (2.40 mL) to prepare the title compound. Purify by flash chromatography using 0 to 40% of EtOAc in hexanes to give the title compound (0.20 g, 29%): MS (ES) 357.1 (M+1)+.

reactant | 3-morpholin-4-yl-1-triisopropylsilanyl-1H-indole | N1(CCOCC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C21H34N2OSi
reactant | 3-bromo-1-triisopropylsilanyl-1H-indole | 1.99 mmol, 0.70 g | BrC1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | piperidine | 3.04 mmol, 0.26 g | N1CCCCC1 | C5H11N
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.05 mmol, 0.02 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 2.40 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.05 mmol, 0.05 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 3-Piperidin-1-yl-1-triisopropylsilanyl-1H-indole | N1(CCCCC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C22H36N2Si
